US06858638B2
5-Nitro-3-phenylethynyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole can be obtained in the following way: 0.16 g of triphenylphosphine, 0.54 g of tetrakis(triphenylphosphine)palladium(0) and 0.27 g of copper iodide are added to a solution, under argon, of 3 g of 3-iodo-5-nitro-1-(2-trimethylsilanylethoxymethyl)-1H-indazole in 200 ml of acetonitrile. After stirring for 10 minutes, 1.57 ml of phenylacetylene and 2 ml of triethylamine are added, and the reaction mixture is then refluxed for 16 hours. After cooling to a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 35° C. The residue is taken up in 150 ml of dichloromethane and then washed with 2 times 120 ml of water. The aqueous phases are pooled and extracted with 100 ml of dichloromethane. The organic extracts are pooled, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 30° C. The residue is purified by chromatography under argon pressure (50 kPa), on a column of 200 g of silica (particle size 40-63 μm), eluting successively with pure cyclohexane then with cyclohexane/ethyl acetate (98/2; 97/3; 95/5; 90/10 by volume) mixtures. The fractions containing the expected product are pooled and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 35° C. 2.31 g of 5-nitro-3-phenylethynyl-1-(2trimethylsilanylethoxymethyl)-1H-indazole are thus obtained in the form of a brown solid melting at 88° C.

reactant | triphenylphosphine | 0.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-iodo-5-nitro-1-(2-trimethylsilanylethoxymethyl)-1H-indazole | 3 g | IC1=NN(C2=CC=C(C=C12)[N+](=O)[O-])COCC[Si](C)(C)C | C13H18IN3O3Si
reactant | phenylacetylene | 1.57 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.54 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.27 g | [Cu](I)I
product | 5-nitro-3-phenylethynyl-1-(2trimethylsilanylethoxymethyl)-1H-indazole | 2.31 g | [N+](=O)([O-])C=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)C#CC1=CC=CC=C1 | C21H23N3O3Si
